* Extracted by KLayout with SKY130 LVS runset on : 20/07/2026 23:34

.SUBCKT INV_X2 4 2 1 3 6
M$1 1 4 3 5 sky130_fd_pr__pfet_01v8 L=0.15 W=3.4 AS=0.65025 AD=0.65025 PS=5.78
+ PD=5.78
M$5 2 4 3 6 sky130_fd_pr__nfet_01v8 L=0.15 W=1.3 AS=0.248625 AD=0.248625
+ PS=3.155 PD=3.155
.ENDS INV_X2
